US07563797B2
A solution 4,4,4-trifluoro-3-oxo-butyric acid ethyl ester (23.1 g, 0.13 mol), trimethyl orthoformate (2 eq, 0.251 mol, 27.5 ml), and Ac2O (3 eq, 0.38 mol, 35.6 ml) was heated under an atmosphere of nitrogen at 120° C. for 5 hours. The solution was concentrated to afford an oil which was distilled to obtain 3-methoxy-2-(2,2,2-trifluoro-acetyl)-acrylic acid ethyl ester as the mixture of isomers (7.37 g, 26% yield after distillation). The mixture was used without further purification.

reactant | 4,4,4-trifluoro-3-oxo-butyric acid ethyl ester | 0.13 mol, 23.1 g | C(C)OC(CC(C(F)(F)F)=O)=O | C6H7F3O3
reactant | trimethyl orthoformate | 0.251 mol, 27.5 ml, 2 eq | C(OC)(OC)OC | C4H10O3
reactant | Ac2O | 0.38 mol, 35.6 ml, 3 eq | CC(=O)OC(=O)C | C4H6O3
product | 3-methoxy-2-(2,2,2-trifluoro-acetyl)-acrylic acid ethyl ester | 26% yield | C(C)OC(C(=COC)C(C(F)(F)F)=O)=O | C8H9F3O4
